US03954779
4-(4'-Acetyloxycyclohexyl)-2,2,6,6-tetramethylpiperidine
7 parts of 4-(4'-hydroxycyclohexyl)-2,2,6,6-tetramethylpiperidine were dissolved in xylene by warming 1.7 parts of acetic acid and 0.5 part of tetra-n-butyl-ortho-titanate were added and the solution allowed to stir and reflux for 48 hours. Water was continuously removed from the reaction. The xylene was removed under reduced pressure and the residue treated with 0.5 part carbon, 0.5 part sodium carbonate and water. The mixture was stirred and heated at reflux for 1 hour. The mixture was then filtered and the filtrate extracted with ether. The organic layer was dried over magnesium sulphate and evaporated under reduced pressure. The residue was distilled under reduced pressure to yield the desired product boiling at 114°-7°C/0.1mm and having the following elemental analysis:

reactant | 4-(4'-hydroxycyclohexyl)-2,2,6,6-tetramethylpiperidine | OC1CCC(CC1)C1CC(NC(C1)(C)C)(C)C | C15H29NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 4-(4'-Acetyloxycyclohexyl)-2,2,6,6-tetramethylpiperidine | C(C)(=O)OC1CCC(CC1)C1CC(NC(C1)(C)C)(C)C | C17H31NO2
